US05583130
Step C: 4-Methyl-2'-(thiazol-2-yl)-1,1'-biphenyl
A solution of 1.18 g (4.92 mmol) of 1-bromo-2-(thiazol-2-yl)benzene and 1.67 g (6.55 mmol) of 4-metylphenyltrimethylstannane in 20 mL of dimethylformamide was treated with 621 mg of bis(triphenylphosphine)palladium(II) chloride. The reaction mixture was heated at 150° C. for 6 hours, cooled and poured into 300 mL of water. The resultant mixture was extracted with ether (3×100 mL). The combined ether extracts were washed with water (4×), dried over magnesium sulfate and evaporated under vacuum. The residue was purified by chromatography on silica gel, eluting with hexane/ether (100:10) to give 381 mg of the product. EI-MS: calculated for C16H13NS 251; found 250. 1H NMR (200 MHz, CDCl3): 2.36 (s, 3H), 7.14 (s, 4H), 7.24 (d, 1H), 7.40 (m, 1H), 7.42 (m, 2H), 7.73 (d, 1H), 8.20 (dt, 1H).

reactant | 1-bromo-2-(thiazol-2-yl)benzene | 4.92 mmol, 1.18 g | BrC1=C(C=CC=C1)C=1SC=CN1 | C9H6BrNS
reactant | 4-metylphenyltrimethylstannane | 6.55 mmol, 1.67 g | CC1=CC=C(C=C1)[Sn](C)(C)C
reactant | water | 300 mL | O | H2O
solvent | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
catalyst | bis(triphenylphosphine)palladium(II) chloride | 621 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4-Methyl-2'-(thiazol-2-yl)-1,1'-biphenyl | 381 mg | CC1=CC=C(C=C1)C1=C(C=CC=C1)C=1SC=CN1 | C16H13NS
